US07893048B2
(R)-3-Cyclohexyl-2-[2-(2-{4-[(2R,3R)-3-[2-(2,3-dihydro-benzofuran-6-yl)-2-hydroxy-ethylsulfanyl]-1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetylamino)-acetylamino]-propionic acid
To a solution of {4-[(2R,3R)-3-[2-(2,3-dihydro-benzofuran-6-yl)-2-oxo-ethylsulfanyl]-1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetic acid (33 mg, 0.065 mmol) in DMF (3 mL) at RT was added N-methylmorpholine (22 μl, 0.198 mmol) and TBTU (22 mg, 0.069 mmol). The mixture was stirred for 30 min before (R)-2-(2-amino-acetylamino)-3-cyclohexyl-propionic acid (15 mg, 0.066 mmol) was added. After 2 h 30 min, the reaction was quenched by the addition of water (1 mL) The mixture was diluted with MeOH (1 mL) and then added NaBH4 (35 mg, 0.925 mmol). After 15 min, the reaction was quenched by the addition of 1M HCl (3 mL) and the resulting solution was purified by preparative HPLC using a gradient of 0-60% MeCN in a 0.1M ammonium acetate buffer as eluent. Freeze-drying of the pure fractions gave the desired product.

reactant | {4-[(2R,3R)-3-[2-(2,3-dihydro-benzofuran-6-yl)-2-oxo-ethylsulfanyl]-1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetic acid | 0.065 mmol, 33 mg | O1CCC2=C1C=C(C=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)O)C=C2)=O | C27H22FNO6S
reactant | N-methylmorpholine | 0.198 mmol, 22 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.069 mmol, 22 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (R)-2-(2-amino-acetylamino)-3-cyclohexyl-propionic acid | 0.066 mmol, 15 mg | NCC(=O)N[C@@H](C(=O)O)CC1CCCCC1 | C11H20N2O3
reactant | NaBH4 | 0.925 mmol, 35 mg | [BH4-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (R)-3-Cyclohexyl-2-[2-(2-{4-[(2R,3R)-3-[2-(2,3-dihydro-benzofuran-6-yl)-2-hydroxy-ethylsulfanyl]-1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetylamino)-acetylamino]-propionic acid | C1(CCCCC1)C[C@H](C(=O)O)NC(CNC(COC1=CC=C(C=C1)[C@H]1N(C([C@@H]1SCC(O)C1=CC2=C(CCO2)C=C1)=O)C1=CC=C(C=C1)F)=O)=O | C38H42FN3O8S
